US07511145B2
Step 1: 4-{[1-(2-Bromo-phenyl)-meth-(E)-ylidene]-amino}-benzoic acid methyl ester (Compound 471a)
4-aminobenzoic acid methyl ester (1.51 g, 10 mmol) and 2-bromobenzaldehyde (1.45 mL, 12.5 mmol) were dissolved in 15 mL of methanol. The mixture was let stand overnight. A white precipitate formed and the crystals were filtered off, washed with cold methanol (2×) and dried.

reactant | 4-aminobenzoic acid methyl ester | 10 mmol, 1.51 g | COC(C1=CC=C(C=C1)N)=O | C8H9NO2
reactant | 2-bromobenzaldehyde | 12.5 mmol, 1.45 mL | BrC1=C(C=O)C=CC=C1 | C7H5BrO
solvent | methanol | 15 mL | CO | CH4O
product | 4-{[1-(2-Bromo-phenyl)-meth-(E)-ylidene]-amino}-benzoic acid methyl ester | COC(C1=CC=C(C=C1)/N=C/C1=C(C=CC=C1)Br)=O | C15H12BrNO2
